US04349482
Following the procedure of Example 14, 3-tert-butoxy-1-chloro-2-propyl 2-chloroethyl carbonate (from the reaction of 3-tert-butoxy-1-chloro-2-propanol with 2-chloroethyl chloroformate) is heated in the presence of tetrabutylphosphonium bromide to produce tert-butyl glycidyl ether and ethylene dichloride as the principal reaction products.

reactant | 3-tert-butoxy-1-chloro-2-propyl 2-chloroethyl carbonate | C(OC(CCl)COC(C)(C)C)(OCCCl)=O | C10H18Cl2O4
reactant | 3-tert-butoxy-1-chloro-2-propanol | C(C)(C)(C)OCC(CCl)O | C7H15ClO2
reactant | 2-chloroethyl chloroformate | ClC(=O)OCCCl | C3H4Cl2O2
catalyst | tetrabutylphosphonium bromide | [Br-].C(CCC)[P+](CCCC)(CCCC)CCCC
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | tert-butyl glycidyl ether | C(C1CO1)OC(C)(C)C | C7H14O2
